* Subcircuit 74157
.subckt 74157 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ ? net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ ? 
* /home/mallikarjuna/downloads/esim-1.1.2/src/subcircuitlibrary/74157/74157.cir
.include 3_and.sub
* u20  net-_u20-pad1_ net-_u20-pad2_ net-_u1-pad4_ d_or
* u21  net-_u21-pad1_ net-_u21-pad2_ net-_u1-pad7_ d_or
* u22  net-_u22-pad1_ net-_u22-pad2_ net-_u1-pad9_ d_or
* u23  net-_u23-pad1_ net-_u23-pad2_ net-_u1-pad12_ d_or
* u3  net-_u1-pad1_ net-_u3-pad2_ d_inverter
* u2  net-_u1-pad15_ net-_u2-pad2_ d_inverter
x2 net-_u3-pad2_ net-_u2-pad2_ net-_u1-pad2_ net-_u20-pad1_ 3_and
x3 net-_u3-pad2_ net-_u2-pad2_ net-_u1-pad5_ net-_u21-pad1_ 3_and
x4 net-_u3-pad2_ net-_u2-pad2_ net-_u1-pad11_ net-_u22-pad1_ 3_and
x5 net-_u3-pad2_ net-_u2-pad2_ net-_u1-pad14_ net-_u23-pad1_ 3_and
x6 net-_u1-pad1_ net-_u2-pad2_ net-_u1-pad3_ net-_u20-pad2_ 3_and
x7 net-_u1-pad1_ net-_u2-pad2_ net-_u1-pad6_ net-_u21-pad2_ 3_and
x1 net-_u1-pad1_ net-_u2-pad2_ net-_u1-pad10_ net-_u22-pad2_ 3_and
x8 net-_u1-pad1_ net-_u2-pad2_ net-_u1-pad13_ net-_u23-pad2_ 3_and
a1 [net-_u20-pad1_ net-_u20-pad2_ ] net-_u1-pad4_ u20
a2 [net-_u21-pad1_ net-_u21-pad2_ ] net-_u1-pad7_ u21
a3 [net-_u22-pad1_ net-_u22-pad2_ ] net-_u1-pad9_ u22
a4 [net-_u23-pad1_ net-_u23-pad2_ ] net-_u1-pad12_ u23
a5 net-_u1-pad1_ net-_u3-pad2_ u3
a6 net-_u1-pad15_ net-_u2-pad2_ u2
* Schematic Name: d_or, NgSpice Name: d_or
.model u20 d_or(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 )
* Schematic Name: d_or, NgSpice Name: d_or
.model u21 d_or(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 )
* Schematic Name: d_or, NgSpice Name: d_or
.model u22 d_or(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 )
* Schematic Name: d_or, NgSpice Name: d_or
.model u23 d_or(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 )
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u3 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 )
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 )
* Control Statements

.ends 74157